US04343811
2-Methyl-2-[2-methyl-3-(3-methyl-phenyl)-1H-indole-5-yloxy]-propanoic acid ethylester
The above compound was prepared from 2-methyl-3-(3-methyl-phenyl)-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 2-methyl-3-(3-methyl-phenyl)-1H-indole-5-ol | CC=1NC2=CC=C(C=C2C1C1=CC(=CC=C1)C)O | C16H15NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-Methyl-2-[2-methyl-3-(3-methyl-phenyl)-1H-indole-5-yloxy]-propanoic acid ethylester | C(C)OC(C(C)(OC=1C=C2C(=C(NC2=CC1)C)C1=CC(=CC=C1)C)C)=O | C22H25NO3
